US04440788
S-Methyl-N-acetyl-L-cysteine (3.54 g, 20 mmole) was dissolved in 25 ml of tetrahydrofuran and 2.8 ml (20 mmole) of triethylamine was added thereto. Upon cooling to -15° C., 2.7 ml (20 mmole) of butyl chloroformate was added dropwise and the mixture was stirred for 20 minutes at that temperature. After cooling to -40° C., 3.0 ml (46.6 mmole) of aqueous 70% ethylamine solution was added in one portion and stirred for 3 hours under ice cooling. The reaction mixture was extracted with 100 ml of ethyl acetate three times and the extracts were washed successively with 2×30 ml of aqueous 5% sodium bicarbonate and 2×30 ml of saturated saline, dried over anhydrous magnesium sulfate and then concentrated in vacuo. The resulting crystals were collected and washed with ethyl ether to give 2.20 g (53.8% yield) of S-methyl-N-acetyl-L-cysteine ethylamide.

reactant | S-Methyl-N-acetyl-L-cysteine | 20 mmole, 3.54 g | CSC[C@H](NC(C)=O)C(=O)O | C6H11NO3S
reactant | triethylamine | 20 mmole, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | butyl chloroformate | 20 mmole, 2.7 ml | ClC(=O)OCCCC | C5H9ClO2
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | S-methyl-N-acetyl-L-cysteine ethylamide | 2.20 g, 53.8% yield | C(C)NC([C@@H](NC(C)=O)CSC)=O | C8H16N2O2S
